US08314087B2
5-Bromo-1-(2-(tert-butyldimethylsilyloxy)ethyl)pyrimidin-2(1H)-one.
To a solution of 5-bromo-2-pyrimidinone (5.3 g, 30 mmol) in N,N-dimethylformamide (50 mL) was added (2-bromoethoxy)(tert-butyl)dimethylsilane (8.5 mL, 39 mmol) and cesium carbonate (12 g, 36 mmol). The mixture was stirred at 25° C. for 3 days, then poured into aq. NaHCO3 (500 mL) and extracted with 50% EtOAc/hexane (3×200 mL). The combined extracts were washed with H2O (3×200 mL) and brine (200 mL) and then dried (Na2SO4) and concentrated to afford a brown solid. Recrystallization from EtOAc/hexane afforded the title compound as an off-white crystalline solid (6.0 g, 59% yield). MS (ESI, pos. ion.) m/z: 333 (MH+). Calc'd exact mass for C12H21BrN2O2Si: 333. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.08 (s, 6 H), 0.80 (s, 9 H), 3.81 (t, J=5.0 Hz, 2 H), 3.96 (t, J=5.0 Hz, 2 H), 8.40 (d, J=3.3 Hz, 1 H), 8.63 (d, J=3.3 Hz, 1 H).

reactant | 5-bromo-2-pyrimidinone | 30 mmol, 5.3 g | BrC=1C=NC(NC1)=O | C4H3BrN2O
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 39 mmol, 8.5 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | cesium carbonate | 36 mmol, 12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-1-(2-(tert-butyldimethylsilyloxy)ethyl)pyrimidin-2(1H)-one | 6.0 g, 59% yield | BrC=1C=NC(N(C1)CCO[Si](C)(C)C(C)(C)C)=O | C12H21BrN2O2Si
